US05455258
To a solution of 4-amino-4-carbomethoxy-tetrahydrothiopyran hydrochloride (3.1 g, 15.0 mmol) in methylene chloride (75 mL) containing triethylamine (3.5 g, 330.0 mmol) is added 4-methoxybenzenesulfonyl chloride (4.1 g, 20.0 mmol) at room temperature. The reaction mixture is stirred at room temperature for 18 hours. The mixture is diluted with water and the organic layer is removed. The aqueous layer is extracted with diethyl ether and the organic extracts are washed with brine, dried (MgSO4) and the solvent is evaporated. The product is purified by silica gel chromatography (50% ethylacetate/hexanes) to provide 4-[[4-methoxybenzenesulfonyl]amino]-4-carbomethoxy-tetrahydrothiopyran.

reactant | 4-amino-4-carbomethoxy-tetrahydrothiopyran hydrochloride | 15.0 mmol, 3.1 g | Cl.NC1(CCSCC1)C(=O)OC
reactant | triethylamine | 330.0 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 20.0 mmol, 4.1 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 4-[[4-methoxybenzenesulfonyl]amino]-4-carbomethoxy-tetrahydrothiopyran | COC1=CC=C(C=C1)S(=O)(=O)NC1(CCSCC1)C(=O)OC | C14H19NO5S2
